US07279534B2
A di-ol triblock copolymer, of the structure HO-BAB-OH, was synthesized from 3,4-ethylenedioxythiophene and a precursor that contained a hydroxyl group at one end and an EDOT group at the other end. This precursor was prepared by reacting a mono-amino mono-hydroxyl terminated poly(ethylene glycol) oligomer with 3,4-ethylenedioxythiophene-2-carboxaldehyde under the conditions described in Example #18, Part A. 3,4-Ethylenedioxythiophene-2-carboxaldehyde was prepared according to the Mohanakrishnan method in high yield (Mohanakrishnan et al., Tetrahedron, 55, 11745-11754 (1999)). The tri-block copolymers were made as follows: 2 mmol of PEGmonoEDOT with average molecular weight of 1500 Dalton and 170 mmol EDOT were mixed in butanol and heated at 80° C. To this solution, a solution of Baytron® C from Bayer (50% iron p-toluenesulfonate in butanol) was added drop-wise over 30 minutes. The reaction was stirred at room temperature for 6 days then the product was filtered and extracted with copious amount of water. Butyl acetate (150 mL) was added under stirring and the butanol was removed by fractional distillation. The resulting butyl acetate suspension was mixed with a trimer of hexamethylene diisocyanate at a ratio NCO/OH of 1.2 (Bayhydrur XP 7007 from Bayer). This mixture was used to cast coatings on primed iron panels. The resulting polyurethane coatings had a conductivity of 1×10−4 S/cm.

reactant | 3,4-ethylenedioxythiophene | C1OC2=CSC=C2OC1 | C6H6O2S
reactant | EDOT | 170 mmol | C1COC2=CSC=C2O1 | C6H6O2S
reactant | butanol | C(CCC)O | C4H10O
catalyst | iron p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Fe+2].C1(=CC=C(C=C1)S(=O)(=O)[O-])C
product | 3,4-Ethylenedioxythiophene-2-carboxaldehyde | C1OC2=C(SC=C2OC1)C=O | C7H6O3S
